US06211215B1
A solution of 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-(2-thienyl)ethenyl]oxazole (200 mg) in methanol (10 ml)-tetrahydrofuran (4 ml) was hydrogenated on palladium carbon (10%, wet, 70 mg) at 4 atm. After removal of the catalyst by filtration, the filtrate was concentrated. The hydrogenation was repeated three times to obtain 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[2-(2-thienyl)ethyl]oxazole. Recrystallization from ethyl acetate-methanol gave colorless prisms (155 mg, 79%), mp 68-70° C.

reactant | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-(2-thienyl)ethenyl]oxazole | 200 mg | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)\C=C\C=2SC=CC2)C=C1 | C22H21N3O2S
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[2-(2-thienyl)ethyl]oxazole | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)CCC=2SC=CC2)C=C1 | C22H23N3O2S
